US04816452
c. Ethyl 2-(2-aminothiazol-4-yl)-(Z)-2-(cis 3-methylcyclohexyloxyimino)acetate
Ethyl 4-bromo-(Z)-2-(cis 3-methylcyclohexyl)oxyimino-3-oxobutyrate (7.2 mmol) was treated with N,N-dimethylaniline (0.91 ml; 7.2 mmol) and thiourea (0.55 g, 7.2 mmol) in ethanol as described in Example 4d, except that the reaction was worked up after 2 h. The title compound was obtained as a white crystalline solid (1.78 g; 79%) m.p. 91°-93° C. (ethyl acetate/hexane), (Found: C, 54.29; H, 6.88; N, 13.57. C14H21N3O3S requires C, 54; H, 6.79; N, 13.49%), νmax (CHCl3) 3480, 3400, 1730, and 1610 cm-1 ; δH (CDCl3) 0.64-1.1 (2H, m, partially obscured by d, δ 0.92), 0.92 (3H, d, J 5.5 Hz), 1.1-1.55 (3H, m, partially obscured by t, δ 1.36), 1.36 (3H, t, J 7.1 Hz), 1.55-1.70 (1H, m) 1.70-1.86 (1H, m), 2.03-2.25 (2H, m), 4.20 (1H, tt, J 11.1 and 4.3 Hz), 4.39 (2H, q, J 7.1 Hz), 5.31 (2H, broad s), and 6.7 (1H, s).

reactant | Ethyl 4-bromo-(Z)-2-(cis 3-methylcyclohexyl)oxyimino-3-oxobutyrate | 7.2 mmol | BrCC(/C(/C(=O)OCC)=N/O[C@@H]1C[C@@H](CCC1)C)=O | C13H20BrNO4
reactant | N,N-dimethylaniline | 7.2 mmol, 0.91 ml | CN(C1=CC=CC=C1)C | C8H11N
reactant | thiourea | 7.2 mmol, 0.55 g | NC(=S)N | CH4N2S
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | ethanol | C(C)O | C2H6O
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | Ethyl 2-(2-aminothiazol-4-yl)-(Z)-2-(cis 3-methylcyclohexyloxyimino)acetate | NC=1SC=C(N1)/C(/C(=O)OCC)=N/O[C@@H]1C[C@@H](CCC1)C | C14H21N3O3S
